US09212184B2
To a stirred solution of (6-bromo-3-iodo-imidazo[1,2-a]pyrazin-8-yl)isobutyl-amine (74.20 g, 188 mmol) in dioxane (1300 mL) was subsequently added 130 mL water, 119 g tripotassium phosphate (563 mmol, 3 eq), 50.06 g [4-[(cyclopropylamino)carbonyl]phenyl]-boronic acid (244 mmol, 1.3 eq) and 7.42 g Pd(dppf)Cl2 (9 mmol, 0.05 eq) in one portion at rt under argon atmosphere. After stirring for 72 h at 40° C., the mixture was poured on 5 L water and the precipitate was filtered off and washed with water. The precipitate was taken up in DCM, washed with sat. sodium chloride solution, dried over sodium sulphate and after filtration the solvent was evaporated. Purification by flash chromatography (DCM/acetone 95:5) yielded 45.2 g (56.20%) 4-(6-bromo-8-isobutylamino-imidazo[1,2-a]pyrazin-3-yl)-N-cyclopropyl-benzamide: 1H-NMR (300 MHz, CDCl3): δ=7.90 (2H, d), 7.65 (1H, s), 7.58 (2H, d), 7.56 (1H, s), 6.32 (1H, s), 6.20 (1H, tr), 3.46 (2H, dd), 2.95 (1H, m), 2.01 (1H, m), 1.04 (6H, d), 0.92 (2H, m), 0.66 (2H, m) ppm.

reactant | (6-bromo-3-iodo-imidazo[1,2-a]pyrazin-8-yl)isobutyl-amine | 188 mmol, 74.20 g | BrC=1N=C(C=2N(C1)C(=CN2)I)NCC(C)C | C10H12BrIN4
reactant | water | 130 mL | O | H2O
reactant | tripotassium phosphate | 563 mmol, 119 g, 3 eq | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | [4-[(cyclopropylamino)carbonyl]phenyl]-boronic acid | 244 mmol, 50.06 g, 1.3 eq | C1(CC1)NC(=O)C1=CC=C(C=C1)B(O)O | C10H12BNO3
reactant | water | 5 L | O | H2O
solvent | dioxane | 1300 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 9 mmol, 7.42 g, 0.05 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(6-bromo-8-isobutylamino-imidazo[1,2-a]pyrazin-3-yl)-N-cyclopropyl-benzamide | 45.2 g, 56.20% | BrC=1N=C(C=2N(C1)C(=CN2)C2=CC=C(C(=O)NC1CC1)C=C2)NCC(C)C | C20H22BrN5O
